US07615651B2
Preparation of Intermediate 4-Bromo-3-fluoro-N-(3-methylbutyl)benzamide (I-5a)
4-Bromo-3-fluorobenzoic acid (2.00 g, 9.13 mmol) was dissolved in dichloromethane (20 mL) and cooled in an ice/water bath as EDCl (2.10 g, 10.9 mmol) was added. After addition, the reaction mixture was allowed to warm to ambient temperature and stirred for 30 minutes before adding isoamylamine (1.59 g, 18.3 mmol). After 12 hours, water was added and the reaction mixture was extracted with ethyl ether. The combined organic layers were washed sequentially with 1N HCl, 1N NaOH and brine. The organic phase was dried over sodium sulfate, filtered and concentrated. The resulting residue was purified by chromatography on silica gel eluting with 5% ethyl acetate in heptane to afford the title compound (I-5a).

reactant | 4-Bromo-3-fluorobenzoic acid | 9.13 mmol, 2.00 g | BrC1=C(C=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | EDCl | 10.9 mmol, 2.10 g | CCN=C=NCCCN(C)C.Cl
reactant | isoamylamine | 18.3 mmol, 1.59 g | C(CC(C)C)N | C5H13N
reactant | water | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-Bromo-3-fluoro-N-(3-methylbutyl)benzamide | BrC1=C(C=C(C(=O)NCCC(C)C)C=C1)F | C12H15BrFNO
